US08957070B2
N-(2-Bromoethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.70 g), (2-bromoethyl)amine hydrobromide (0.49 g), 1H-1,2,3-benzotriazol-1-ol (0.32 g), triethylamine (0.34 mL) and N,N-dimethylformamide (20 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.46 g) at 0° C., and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried to give the title compound (0.35 g, 37%) as colorless crystals. melting point 218-219° C. (decomposition).

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.70 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | (2-bromoethyl)amine hydrobromide | 0.49 g | Br.BrCCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.32 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.46 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
product | N-(2-Bromoethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.35 g, 37% | BrCCNC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H14BrN3O3S2
